US04187213
A hot solution of 16 g. of zinc, o-aminophenylmercaptide and 12.5 g. of p-hydroxybenzaldehyde in 1 l. of acetic acid was treated with hydrogen sulfide for two hours, filtered hot, diluted with an equal volume of water and cooled. 2-(p-Hydroxyphenyl)benzothiazole (47% yield, m.p. 227°-229° F.) was obtained. The 2-(p-hydroxyphenyl)benzothiazole was reacted with 4-(2-bromoethoxy)-2,2,6,6-tetramethylpiperidine as in Example 1 to produce 4-{2-[4-(2-benzothiazolyl)phenoxy]ethoxy}-2,2,6,6-tetramethylpiperidine.

reactant | 2-(p-hydroxyphenyl)benzothiazole | OC1=CC=C(C=C1)C=1SC2=C(N1)C=CC=C2 | C13H9NOS
reactant | 4-(2-bromoethoxy)-2,2,6,6-tetramethylpiperidine | BrCCOC1CC(NC(C1)(C)C)(C)C | C11H22BrNO
product | 4-{2-[4-(2-benzothiazolyl)phenoxy]ethoxy}-2,2,6,6-tetramethylpiperidine | S1C(=NC2=C1C=CC=C2)C2=CC=C(OCCOC1CC(NC(C1)(C)C)(C)C)C=C2 | C24H30N2O2S
